US05780437
Benzyl-{2-[2-(3,5-dimethylphenyl)-5-pentanoylamino-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester
To a solution of {2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}benzylcarbamic acid tert-butyl ester (200 mg in 10 mL dry methylene chloride) at 0° C. was added 0.18 mL triethylamine followed by the dropwise addition of 0.06 mL valeryl chloride and the mixture stirred at low temperature. After 17 minutes, the reaction was quenched by the addition of saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic portion was washed successively with saturated sodium bicarbonate and saturated ammonium chloride then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 3:2) gave the title compound (230 mg).

reactant | {2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}benzylcarbamic acid tert-butyl ester | 10 mL, 200 mg | C(C)(C)(C)OC(N(CC1=CC=CC=C1)CCC1=C(NC2=CC=C(C=C12)N)C1=CC(=CC(=C1)C)C)=O | C30H35N3O2
reactant | valeryl chloride | 0.06 mL | C(CCCC)(=O)Cl | C5H9ClO
solvent | triethylamine | 0.18 mL | C(C)N(CC)CC | C6H15N
product | Benzyl-{2-[2-(3,5-dimethylphenyl)-5-pentanoylamino-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester | 230 mg | C(C)(C)(C)OC(N(CCC1=C(NC2=CC=C(C=C12)NC(CCCC)=O)C1=CC(=CC(=C1)C)C)CC1=CC=CC=C1)=O | C35H43N3O3
